US05037825
16.5 g of [1-(4,4-dimethyl-6-chromanyl)ethyl]triphenylphosphonium bromide and 3 g of benzaldehyde were heated under reflux in 100 ml of butylene oxide for 20 hours. The reaction mixture obtained was poured into a methanol/water mixture (6:4) and extracted with hexane. After drying and evaporating the organic phase the crude product was chromatographed (silica gel, eluting agent hexane) and recrystallized from hexane. There were obtained 1.5 g of 3,4-dihydro-4,4-dimethyl-6-[(E)-α-methylstyryl]-2H-1-benzopyran in the form of colorless crystals, melting point 64°-65° C.

reactant | [1-(4,4-dimethyl-6-chromanyl)ethyl]triphenylphosphonium bromide | 16.5 g | [Br-].CC1(CCOC2=CC=C(C=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | benzaldehyde | 3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | methanol water | CO.O
solvent | butylene oxide | 100 ml | C1CCCO1 | C4H8O
product | 3,4-dihydro-4,4-dimethyl-6-[(E)-α-methylstyryl]-2H-1-benzopyran | 1.5 g | CC1(CCOC2=C1C=C(C=C2)\C(=C\C2=CC=CC=C2)\C)C | C20H22O
